US04460584
The starting material may be prepared as follows. A mixture of 2-methylimidazole (6.15 g.), a 50% w/w dispersion of sodium hydride in oil (5.4 g.) and DMF (20 ml.) was treated with 3-chloropropanol (10.6 g.) and the mixture heated at 100° for 24 hours and then evaporated to dryness. The residue was treated with concentrated aqueous hydrochloric acid (8 ml.) and the solution washed with chloroform, and then basified with potassium carbonate. The mixture was extracted with chloroform, and the extract was dried and evaporated to dryness to give 2-methyl-1-(3-hydroxypropyl)imidazole which was used without further purification.

reactant | 2-methylimidazole | 6.15 g | CC=1NC=CN1 | C4H6N2
reactant | sodium hydride | [H-].[Na+]
reactant | 3-chloropropanol | 10.6 g | ClCCCO | C3H7ClO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-methyl-1-(3-hydroxypropyl)imidazole | CC=1N(C=CN1)CCCO | C7H12N2O
